US04180394
A solution of N-trifluoroacetyl-N-(dichlorophosphonomethyl)glycinate (8.25 g, 0.025 mole) in 100 ml. of ether was cooled to 0° C. and a solution of methanol (1.01 ml, 0.025 mole) and triethylamine (3.49 ml, 0.025 mole) in 30 ml. of ether was added. After two hours, the reaction mixture was filtered and the filtrate was cooled to 0° C. and treated with methanethiol (1.38 ml, 0.025 mole) and triethylamine (3.49 ml, 0.025 mole). This mixture was stirred overnight, then concentrated in vacuo to afford an oil which was chromatographed on silica gel. The column was eluted with methylene chloride/ethyl acetate to yield ethyl N-trifluoroacetyl-N-(methoxy(methylthio)phosphonomethyl)glycinate (2.3 g) as an oil, ND =1.4571.

reactant | N-trifluoroacetyl-N-(dichlorophosphonomethyl)glycinate | 0.025 mole, 8.25 g | FC(C(=O)N(CC(=O)[O-])CP(=O)(OCl)OCl)(F)F
reactant | methanol | 0.025 mole, 1.01 ml | CO | CH4O
reactant | triethylamine | 0.025 mole, 3.49 ml | C(C)N(CC)CC | C6H15N
reactant | methanethiol | 0.025 mole, 1.38 ml | CS | CH4S
reactant | triethylamine | 0.025 mole, 3.49 ml | C(C)N(CC)CC | C6H15N
solvent | ether | CCOCC | C4H10O
product | ethyl N-trifluoroacetyl-N-(methoxy(methylthio)phosphonomethyl)glycinate | 2.3 g | FC(C(=O)N(CC(=O)OCC)C(P(=O)(OSC)O)OC)(F)F | C9H15F3NO7PS
